US06492366B1
Preparation A: 3-[(3-Pyrrolidinyl)methyl]-1H-indole-5-carbonitrile
Hydrogenolysis of 0.32 mol (96 g) of 3-(1-benzyl-3-pyrrolidinylmethyl)-1H-indole-5-carbonitrile (described in Patent Application EP 610 134) is carried out in 1.7 liters of ethanol in the presence of 9.6 g of carbon containing 20% palladium hydroxide moist (Pearlman's catalyst) and 0.32 mol of hydrochloric acid in ethanol at 70° C. and at atmospheric pressure. After absorption of the theoretical amount of hydrogen, the catalyst is filtered off and the filtrate is then concentrated. The base is precipitated out by 1N sodium hydroxide solution and extracted using dichloromethane to yield the expected product.

reactant | 3-(1-benzyl-3-pyrrolidinylmethyl)-1H-indole-5-carbonitrile | 0.32 mol, 96 g | C(C1=CC=CC=C1)N1CC(CC1)CC1=CNC2=CC=C(C=C12)C#N | C21H21N3
reactant | hydrochloric acid | 0.32 mol | Cl | ClH
solvent | ethanol | 1.7 liters | C(C)O | C2H6O
product | 3-[(3-Pyrrolidinyl)methyl]-1H-indole-5-carbonitrile | N1CC(CC1)CC1=CNC2=CC=C(C=C12)C#N | C14H15N3
